US04929624
Using the method of Example 1, 4-chloro-3-nitroquinoline was reacted with 2-amino-2-methyl-1-propanol to afford 2-[(3-nitro-4-quinolinyl)amino]-1-propanol, m.p. 207°-211° C. Analysis: Calculated for C12H13N3O3 : %C, 58.3; %H, 5.3; %N, 17; Found: %C, 58.6; %H, 5.3; %N, 17.2.

reactant | 4-chloro-3-nitroquinoline | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | 2-amino-2-methyl-1-propanol | NC(CO)(C)C | C4H11NO
product | 2-[(3-nitro-4-quinolinyl)amino]-1-propanol | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NC(CO)C | C12H13N3O3
